US06211199B1
20.5 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)pyrrolidine
Prepare by the method of Example 4.1 using 1-(3,4,5-trimethoxybenzoyl)-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.8 g, 1.67 mmol) and (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt (0.8 g, 1.67 mmol). Purify by chromatography on silica gel eluting with 2% triethylamine/30% methanol/ethyl acetate to give the title compound: Rf=0.21 (silica gel, 2% triethylamine/30% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.67 mmol, 0.8 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)CC2=CC=CC=C2)C=C(C1OC)OC | C24H31NO7S
reactant | (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt | 1.67 mmol, 0.8 g | I.N1C(=NC2=C1C=CC=C2)NC2CCNCC2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CC2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C35H43N5O4
